US04868321
2-fluoro-4-chloro-5(ethylsulfonylamino)phenyl isothiocyanate;
1-[2-fluoro-4-chloro-5-(ethylsulfonylamino)phenyl]-5H-tetrazol-5-thione and its sodium salt;

reactant | 1-[2-fluoro-4-chloro-5-(ethylsulfonylamino)phenyl]-5H-tetrazol-5-thione | FC1=C(C=C(C(=C1)Cl)NS(=O)(=O)CC)N1NN=NC1=S | C9H9ClFN5O2S2
reactant | sodium | [Na] | Na
product | 2-fluoro-4-chloro-5(ethylsulfonylamino)phenyl isothiocyanate | FC1=C(C=C(C(=C1)Cl)NS(=O)(=O)CC)N=C=S | C9H8ClFN2O2S2
